### PR TITLE
Set CwF and TypeCat structures

### PR DESCRIPTION
**Pull request by andreaslyn**
Cherry pick commits on Sets.v from the UniMath workshop.

### CODE REVIEW

**Comment by andreaslyn** [comment]
This PR supersedes https://github.com/unimath2019-tt/TypeTheory/pull/2.

File: TypeTheory/Instances/Sets.v [hunk 1]
```diff
@@ -0,0 +1,325 @@
...
+                   q(σ,a) = a            ([subst_pair_q])
+
+                    (p,q) = 1            ([subst_pair_id])
+
+        (p_gen,q_gen) · p = p · σ        ([q_gen_mor_p])
+>>
+
+And the last square is a pullback square ([isPullback_q_gen_mor]).
+
+Written by: Anders Mörtberg, 2017
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v]: Please update

File: TypeTheory/Instances/Sets.v [hunk 2]
```diff
@@ -0,0 +1,325 @@
...
+      * simpl.
+        exact pr1.
+  - simpl.
+    intros Γ A.
+    cbn.
+    split.
+    + exact pr2.
+    + intros Δ σ a d.
+      exact (σ d,, a d).
+Defined.
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v:229]: I think you can remove all of the `unfold`, `cbn` and `simpl` from this and many of the other proofs. This makes the final proof scripts easier to read as they will mainly be `use tpair`, `intros` and `exact`.

File: TypeTheory/Instances/Sets.v [hunk 3]
```diff
@@ -0,0 +1,325 @@
...
+  - simpl.
+    unfold reindx_laws_terms.
+    simpl.
+    use tpair.
+    + intros.
+      exact (idpath _).
+    + simpl.
+      intros.
+      exact (idpath _).
+Defined.
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v:234]: I think this can be solved by simply typing `easy` or just `repeat (split; easy)`:

https://github.com/UniMath/UniMath/blob/master/UniMath/MoreFoundations/Tactics.v#L9

File: TypeTheory/Instances/Sets.v [hunk 4]
```diff
@@ -0,0 +1,325 @@
...
+      simpl.
+      unfold hset_precategory_ob_mor in *.
+      apply isaset_set_fun_space.
+    * simpl.
+      use tpair.
+      + admit.
+      + simpl.
+        intros.
+        apply isaset_forall_hSet.
+Admitted.
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v:248]: How about stating the things that are provable as separate lemmas?

File: TypeTheory/Instances/Sets.v [hunk 5]
```diff
@@ -0,0 +1,325 @@
...
+                     unfold idfun.
+                     induction p2.
+                     cbn.
+                     assert (idpath _ = p).
+                     admit. (*This is easy, because they're hsets *)                    
+                     induction X.
+                     reflexivity.
+                 +++ admit. (*This is easy, because they're hsets *)
+                 
+         Admitted.
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v]: Let me know if you want me to finish these proofs or will you do it?

**Review by mortberg — CHANGES_REQUESTED** [review]
I read through the code now and had a few comments. Let me know if you need help with anything.

**Comment by andreaslyn** [comment]
> I read through the code now and had a few comments. Let me know if you need help with anything.

I have polished it a bit now.

File: TypeTheory/Instances/Sets.v [hunk 6]
```diff
@@ -0,0 +1,218 @@
...
+Local Open Scope cat.
+
+Section TypeCat.
+
+Local Notation "Γ ⊢" := (pr1 Γ → HSET) (at level 50).
+Local Notation "Γ ⊢ A" :=  (∏ (c : pr1 Γ), pr1 (A c)) (at level 50).
+Local Notation "A ⦃ s ⦄" := (λ c, A (s c)) (at level 40, format "A ⦃ s ⦄"). 
+Local Notation "Γ ⋆ A" := (@total2_hSet Γ A : ob HSET) (at level 30).
+
+Definition SET_ctx_proj {Γ : HSET} {A : Γ ⊢} : Γ ⋆ A --> Γ.
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v]: When the proof is just a standard function I typically define it directly:
```
Definition SET_ctx_proj {Γ : HSET} {A : Γ ⊢} : Γ ⋆ A --> Γ := pr1.
```

You might need to put an @ and give some argument explicitly

File: TypeTheory/Instances/Sets.v [hunk 7]
```diff
@@ -0,0 +1,218 @@
+(**
+
+This files proves that HSET (almost) forms a type category ([HSET_TypeCat]). As the
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v]: The "(almost)" can be removed

File: TypeTheory/Instances/Sets.v [hunk 8]
```diff
@@ -0,0 +1,218 @@
...
+- intros Γ A. use tpair; [exact (total2_hSet A) | exact pr1].
+- intros Γ A. exists pr2. intros Δ σ a d. exact (σ d,, a d).
+Defined.
+    
+Lemma SET_reindx_laws : reindx_laws SET_tt_reindx_type_struct.
+Proof.
+use tpair; easy.
+Defined.
+
+(* The following cannot be completed
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v]: Can you please add "because SET is not an h-set"

File: TypeTheory/Instances/Sets.v [hunk 9]
```diff
@@ -0,0 +1,218 @@
...
+Definition SET_CwF : cwf_struct (SET).
```
Comment (mortberg) [inline TypeTheory/Instances/Sets.v]: Remove parantheses are "SET". :-)

**Comment by mortberg** [comment]
> > I read through the code now and had a few comments. Let me know if you need help with anything.
> 
> I have polished it a bit now.

Great! I made a few small comments. Once you have addressed these I think we can open a PR to UniMath/TypeTheory with this file

**Comment by andreaslyn** [comment]
I have worked on the comments now. I just realized that we are missing quite a bit of operations (subst_type, ctx_ext, ...) and equations (subst_type_id, subst_type_comp, ...) that we claim to have in the beginning of the file. Maybe we should add this before opening a PR to UniMath/TypeTheory?

**Comment by mortberg** [comment]
> I have worked on the comments now. I just realized that we are missing quite a bit of operations (subst_type, ctx_ext, ...) and equations (subst_type_id, subst_type_comp, ...) that we claim to have in the beginning of the file. Maybe we should add this before opening a PR to UniMath/TypeTheory?

Many of these are just proved by refl... But it might be nice to state them. So either add the statements or change the comment in the beginning of the file.

**Comment by mortberg** [comment]
Great! Is this finished now? If so please make a PR to TypeTheory.

**Comment by andreaslyn** [comment]
Closing this pull request because it has been merged into UniMath/TypeTheory https://github.com/UniMath/TypeTheory/pull/154.
